US04386031
(b) 11-[4-Chloro-N-(4-methoxyphenyl)-benzamido]-undecanoic acid
As described in example 1(b), the reaction is carried out with 31.2 g (68 mmol) of 11-[4-chloro-N-(4-methoxyphenyl)-benzamido]-undecanoic acid methyl ester, 4.4 g (0.11 mol) of sodium hydroxide and 200 cc. of methanol. Reaction time: 15 hours, reaction temperature: 25° C. The crude product is further purified chromatographically on silicic acid gel using chloroform as eluant.

reactant | 11-[4-chloro-N-(4-methoxyphenyl)-benzamido]-undecanoic acid methyl ester | 68 mmol, 31.2 g | COC(CCCCCCCCCCN(C(C1=CC=C(C=C1)Cl)=O)C1=CC=C(C=C1)OC)=O | C26H34ClNO4
reactant | sodium hydroxide | 0.11 mol, 4.4 g | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 11-[4-Chloro-N-(4-methoxyphenyl)-benzamido]-undecanoic acid | ClC1=CC=C(C(=O)N(C2=CC=C(C=C2)OC)CCCCCCCCCCC(=O)O)C=C1 | C25H32ClNO4
